US06194487B1
Next, the 1,6-diaminohexane vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 3 minutes. Consequently, 1,6-diaminohexane condensed on the surface of the base particles. A polymerization reaction took place between 1,6-diaminohexane condensed on the surface of the base particles and 1,3-phenylenediisocyanate contained therein, forming a film of 1,3 -phenylenediisocyanate-1,6-diaminohexane co-polymer on the surface of the base particles.

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | 1,3-phenylenediisocyanate | C1(=CC(=CC=C1)N=C=O)N=C=O | C8H4N2O2
product | 1,3 -phenylenediisocyanate 1,6-diaminohexane | C1(=CC(=CC=C1)N=C=O)N=C=O.NCCCCCCN | InChI=1S/C8H4N2O2.C6H16N2/c11-5-9-7-2-1-3-8(4-7)10-6-12;7-5-3-1-2-4-6-8/h1-4H;1-8H2
